US05116404
3-(5-trifluoromethyl-2-pyridyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione (compound No. 4.4 of the present invention)
1.27 g of ethyl 3-amino-3-(2-chlorophenyl)-2-propenoate was added dropwise to a 20 ml of dimethylformamide solution of 0.26 g of sodium hydride (purity: 55%). The solution was stirred t room temperature for 15 minutes, then cooled to 0° C. and added with 1.24 g of methyl (5-trifluoromethyl-2-pyridyl)carbamate. The resulting solution was further stirred at 120° C. for 5 hours and then the solvent was distilled away under reduced pressure. The residue was dissolved with 100 ml of water and washed with diethyl ether. The obtained aqueous layer was added into a mixed solution of 20 ml of concentrated hydrochloric acid and 50 g of ice, and the precipitated crystals were filtered out and dried to obtain 0.21 g of the objective compound.

reactant | ethyl 3-amino-3-(2-chlorophenyl)-2-propenoate | 1.27 g | NC(=CC(=O)OCC)C1=C(C=CC=C1)Cl | C11H12ClNO2
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | methyl (5-trifluoromethyl-2-pyridyl)carbamate | 1.24 g | FC(C=1C=CC(=NC1)NC(OC)=O)(F)F | C8H7F3N2O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(5-trifluoromethyl-2-pyridyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione | 0.21 g | FC(C=1C=CC(=NC1)N1C(NC(=CC1=O)C1=C(C=CC=C1)Cl)=O)(F)F | C16H9ClF3N3O2
